US05047534
Diisopropylamine (3.2 ml) was dissolved in 20 ml of tetrahydrofuran, cooled to 0° C. and treated with 14.2 ml of 1.6M n-butyllithium. After 30 minutes, the lithium diisopropylamide was added to 1 g of n-butyric acid in 75 ml of tetrahydrofuran at -78° C. After 10 minutes the reaction was warmed to -20° C. After 10 more minutes the reaction was warmed slowly to room temperature. The solution was then heated to approximately 35° C. for 30 minutes and then cooled back to room temperature and 1.3 ml of benzyl chloride was added. After 1.5 hours the reaction mixture was heated to 35° C. for 2.5 hours. The solution was then cooled, diluted with 300 ml of water, rinsed with diethyl ether (2×200 ml), and the aqueous phase was acidified with 1 M hydrochloric acid and extracted with diethyl ether (3×200 ml). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated. The residue was purified by radial chromatography (50% ethyl acetate in hexane, 2 mm plate) to yield 1.56 g of 2-benzylbutyric acid (77% yield).

reactant | Diisopropylamine | 3.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M, 14.2 ml | C(CCC)[Li]
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyric acid | 1 g | C(CCC)(=O)O | C4H8O2
reactant | benzyl chloride | 1.3 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 2-benzylbutyric acid | 1.56 g, 77% yield | C(C1=CC=CC=C1)C(C(=O)O)CC | C11H14O2
